US07728030B2
2-Fluoro-5-iodobenzaldehyde (527 mg, 2.11 mmol), 2-hydrazinopyridine (237 mg, 2.17 mmol), cesium carbonate (2.06 g, 6.32 mmol) and NMP (10 ml) werer charged in a 10 ml vial which was sealed and stirred (magnetic bar) over night at 100° C. Water and ethylacetate were added and the phases was separated. The organic layer was washed three times with brine and concentrated. Purification on silica with ethylacetate:heptane 5:95 to 10:90 over 15 min, 10 ml/min, followed by evaporation afforded 31 mg (5%) of 5-iodo-1-pyridin-2-yl-1H-indazole.

reactant | 2-Fluoro-5-iodobenzaldehyde | 2.11 mmol, 527 mg | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 2-hydrazinopyridine | 2.17 mmol, 237 mg | N(N)C1=NC=CC=C1 | C5H7N3
reactant | cesium carbonate | 6.32 mmol, 2.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | Water | O | H2O
product | 5-iodo-1-pyridin-2-yl-1H-indazole | 31 mg, 5% | IC=1C=C2C=NN(C2=CC1)C1=NC=CC=C1 | C12H8IN3
